US07338960B2
3-Fluoro-4-[(phenylmethyl)oxy]benzaldehyde
To a stirring solution of 3-fluoro-4-hydroxybenzaldehyde (508 mg, 3.63 mmol) and CsCO3 (1.25 g, 3.84 mmol) in dry MeCN (5.6 mL) under nitrogen at ambient temperature was added benzyl chloride (0.45 mL, 3.91 mmol) and the mixture heated at 40° C. for 27 h. The mixture was then allowed to cool to rt, was quenched by the addition of aqueous NaOH (2N, 30 mL) and the product extracted with EtOAc (2×50 mL). The combined organic layer was then washed with brine (80 mL) and reduced under vacuum. The residue was then purified by SPE (silica, 10 g cartridge) eluting with cyclohexane:EtOAc (gradient 50:1 to 0:1) to afford the title compound as a colourless solid (623 mg).

reactant | 3-fluoro-4-hydroxybenzaldehyde | 3.63 mmol, 508 mg | FC=1C=C(C=O)C=CC1O | C7H5FO2
reactant | benzyl chloride | 3.91 mmol, 0.45 mL | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | MeCN | 5.6 mL | CC#N | C2H3N
product | 3-Fluoro-4-[(phenylmethyl)oxy]benzaldehyde | 623 mg | FC=1C=C(C=O)C=CC1OCC1=CC=CC=C1 | C14H11FO2
